US07666879B2
In a 500 mL round bottom flask, stir a suspension of 7-chloro-imidazo[1,2-a]pyridine (7.5 g, 49.2 mmol) in 250 mL 1,4-dioxane with bis(pinacolato)diboron (13.74 g, 54.1 mmol, 1.1 eq), potassium acetate (7.24 g, 73.8 mmol, 1.5 eq) and tricyclohexylphosphine (1.66 g. 5.9 mmol, 0.12 eq). Deoxygenate the resulting slurry with two cycles of evacuation and bubbling nitrogen through the slurry for 10 minutes each. Fit the flask with a reflux condenser and add tris(dibenzylidineacetone)dipalladium (0) (2.25 g, 2.45 mmol, 0.05 eq) and stir the mixture under nitrogen at 80° C. overnight. Filter the hot mixture over a ˜1 cm pad of celite, wash with 50 mL 1,4-dioxane, then concentrate the combined filtrate and wash to give a brown pasty solid. Suspend a portion of the solid (32.8 mmol) in 80 mL of dioxane, combine with 41.25 mL of 2 M aqueous sodium carbonate (82.5 mmol, 2.5 eq) and 2-bromothiazole (4.38 mL, 8.07 g, 49.2 mmol, 1.5 eq), then deoxygenate twice via evacuation and bubbling nitrogen through the suspension. Add tetrakis (triphenylphosphine) palladium (1.89 g, 1.64 mmol, 0.05 eq), fit the flask with a reflux condenser and stir the mixture under nitrogen at 100° C. overnight. Filter the dark brown-black hot mixture through a 1 cm pad of Celite®, wash with 50 mL dioxane, then apply the combined filtrate and wash equally to three 25 g SCX Mega Bond-Elut™ SCX cartridges (Varian) each pre-washed with 200 mL 1:1 CH2Cl2:MeOH. After loading with vacuum assist, wash each cartridge with 300 mL 1:1 CH2Cl2:MeOH, then elute with 160 mL 1:1 CH2Cl2:2 M NH3-MeOH. Concentrate the combined eluates in vacuo and purify through a 330 g silica gel cartridge using a 0 to 5% methanol gradient in dichloromethane. Concentrate the pooled clean fractions and dry to yield 3 g (45%) of 7-thiazol-2-yl-imidazo[1,2-a]pyridine as a tan solid. MS (ES) mm/z 202, (M+1).

reactant | 7-chloro-imidazo[1,2-a]pyridine | 49.2 mmol, 7.5 g | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | bis(pinacolato)diboron | 54.1 mmol, 13.74 g, 1.1 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 73.8 mmol, 7.24 g, 1.5 eq | C(C)(=O)[O-].[K+]
reactant | tricyclohexylphosphine | 5.9 mmol, 1.66 g, 0.12 eq | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | sodium carbonate | 82.5 mmol, 2 M, 41.25 mL, 2.5 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromothiazole | 49.2 mmol, 4.38 mL, 8.07 g, 1.5 eq | BrC=1SC=CN1 | C3H2BrNS
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium | 1.64 mmol, 1.89 g, 0.05 eq | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-thiazol-2-yl-imidazo[1,2-a]pyridine | 3 g, 45% | S1C(=NC=C1)C1=CC=2N(C=C1)C=CN2 | C10H7N3S
